* Copyright © Linear Technology Corp. 2016.  All rights reserved.
*
.subckt LT6657-2.5 1 2 3 4
C2 N004 0 200f Rpar=100K noiseless
R6 N003 0 500Meg noiseless
A2 0 N004 0 0 0 0 N003 0 OTA g=230u iout=30u Cout=25p en=31.5n enk=.1 Vlow=0 Vhigh=5
L1 ERREF 0 5.58m noiseless Rser=1.09k Rpar=12.111111k Cpar=1.23p
M1 N009 NG 4 4 NI temp=27
D1 NG 4 DLIMN
M2 N007 PG SP SP PI temp=27
D2 1 PG DLIMP
A1 ERROUT 3 4 4 4 4 PG 4 OTA g=50n ref=-60m linear vlow=-1e308 vhigh=1e308
C4 3 4 1p Rpar=1G noiseless
D3 3 N009 DSBD
D4 N009 4 DBIAS
G5 1 PG 1 SP 1µ vto=30m dir=1
G6 NG 4 N007 N009 20n vto=400m dir=1
A3 ERROUT 3 4 4 4 4 NG 4 OTA g=50n linear ref=24m vlow=-1e308 vhigh=1e308
G7 0 N004 CORE FB 10µ
C6 2 4 100f
C7 3 N009 100f
C11 N007 3 1p
B1 3 N007 I=dnlim(uplim(3.2*V(1,SP)+5.9m,74m,15m),5.9m,1m)*(.5+.5*tanh((.2-V(SHDN2))/40m))
C5 1 PG 4f Rser=300Meg noiseless
C10 NG 4 4f Rser=300Meg noiseless
B2 4 ERROUT I=1u*uplim(dnlim(V(ERREF),-100m,10m),V(1,4),100m)
B3 4 PGmax I=1u*dnlim(V(3,4),dnlim(V(1,4),1,.1),100m)
C9 PGmax 4 1p Rpar=1Meg noiseless
G3 PG 4 PG PGmax 100µ vto=100m dir=1
G2 4 NG 4 NG 10µ vto=100m dir=1
A4 2 4 0 0 0 SHDN 0 0 SCHMITT vt=1.185 vh=75m trise=1u
G4 4 PG HighZ 0 10µ vto=.5 dir=1
G8 NG 4 HighZ 0 10µ vto=.5 dir=1
C3 1 SP 100f Rpar=5 noiseless
C12 N009 4 1p Rpar=100Meg noiseless
C13 CORE 4 100f Rpar=600k noiseless
B4 4 CORE I=(.5+.5*tanh((V(1,4)-1.2)/50m))*2.033u+3e-13*V(1,4)
C14 1 CORE 2f
D5 2 4 Dshut
L2 ERROUT 4 .15 Rser=1.228Meg Rpar=5.384Meg noiseless
G9 4 N002 1 4 2m
C16 N002 CORE 4f
L3 N002 4 1.5m Rpar=8k Rser=100m noiseless
D6 N002 4 DCLMP
C17 N002 4 50p
BBURN 1 4 I=12m*Max(V(1,SP),0)*(1+V(SXX))
G1 0 ERREF N003 0 1m
G12 ERROUT 4 ERROUT 3 1m vto=1 dir=1
G13 4 ERROUT 3 ERROUT 1m vto=1 dir=1
B5 4 PGMIN I=1m*(V(1,4)-2.8)
C18 PGMIN 4 1p Rpar=1k noiseless
D8 PGMIN PGmax DLIM1
A6 4 3 4 4 4 4 PGmax 4 OTA g=70n asym isource=1u isink=-10u ref=0 vlow=-1e308 vhigh=1e308
A5 4 3 0 0 0 0 SXX 0 OTA g=40u iout=10m ref=0 Rout=1k Cout=1p vlow=-1 vhigh=0
A7 1 4 0 0 0 N001 0 0 SCHMITT vt=1 vh=0 trise=100n
A8 SHDN 0 0 N001 0 0 HighZ 0 OR trise=100n
B6 3 1 I=(.5+.5*tanh((V(4,1)-31.7)/1))*uplim(dnlim(19m*(V(3,4)-9.5),0,.1m),30m,1m)
C15 1 4 100f
B7 4 PG I=1m*MAX(V(SP,1)-1m,0)
R1 3 FB 10.495507k noiseless
R4 FB 4 10k noiseless
G10 CORE 4 3 N009 .1n vto=300m dir=1
S2 N007 3 0 SHDN2 SON
G11 0 SHDN2 SHDN 0 1m
C19 SHDN2 0 1p Rpar=2k noiseless
S4 SHDN2 0 4 3 SHUTOVRD
C1 1 3 1p Rpar=1G noiseless
G15 4 CORE 1 SP 360p
BBURN2 1 4 I=MAX(0,uplim(220m*(V(1,SP)-1.85m),270u,160u))
B8 1 4 I=10u*uplim(dnlim(V(2,4)-600m,0,50m),800m,100m)
B9 1 4 I=(662u+4.15u*TEMP)*tanh(dnlim(2*V(1,4)-600m,0,100m))*(.5+.5*tanh((V(SXX,SHDN)+.26)/80m))
.model NI VDMOS(Vto=300m kp=30m ksubthres=.1 mtriode=1.5 lambda=.001 is=0)
.model PI VDMOS(Vto=-300m Kp=30m ksubthres=.4  mtriode=2  lambda=.001 is=0   pchan)
.model SBURN SW(level=2 Ron=10 Roff=100G vt=-.5 vh=-.3  ilimit=.781m oneway epsilon=100m  noiseless)
.model Dshut D(Ron=1Meg Rrev=330k Roff=1G vfwd=1.1 epsilon=500m Vrev=100m revepsilon=200m ilimit=6u noiseless)
.model DLIMN D(Ron=10k Roff=100Meg Vfwd=1.28 epsilon=500m  noiseless)
.model DLIMP D(Ron=50k Roff=100Meg Vfwd=1.35 epsilon=500m  noiseless)
.model DCLMP D(Ron=1 Roff=20k vfwd=200m epsilon=50m vrev=200m revepsilon=50m noiseless)
.model SON SW(Ron=1 Roff=1G vt=-.5 vh=-.3 noiseless)
.model DSBD D(Ron=40 Roff=1G vfwd=300m epsilon=100m noiseless)
.model DBIAS D(Ron=1k Roff=1G vfwd=300m epsilon=200m ilimit=10u noiseless)
.model DLIM1 D(Ron=1k Roff=1G vfwd=100m epsilon=50m noiseless)
.model SHUTOVRD SW(Ron=1 Roff=2k vt=3 vh=-1 noiseless)
.model SLD SW(Ron=100 Roff=1k vt=.5 vh=-.3 ilimit=5m noiseless)
.ends LT6657-2.5
